US07741479B2
To a vial containing tert-butyl 4-chlorobenzo[d][1,3]dioxol-5-ylcarbamate (307.2 mg, 1.1 mmol, 1 equiv.) was added 5.5 mL of 4N HCl in dioxane (22 mmol, 20 equiv.). The mixture was stirred at room temperature for 5.5 h, the solvent removed under vacuum, the residue dissolved in ethyl acetate, washed with saturated NaHCO3, and brine. The combined organic layers was dried over anhydrous Na2SO4, filtered and the solvent removed under to give a quantitative yield 4-chlorobenzo[d][1,3]dioxol-5-amine.

reactant | tert-butyl 4-chlorobenzo[d][1,3]dioxol-5-ylcarbamate | 1.1 mmol, 307.2 mg, 1 equiv. | ClC1=C(C=CC=2OCOC21)NC(OC(C)(C)C)=O | C12H14ClNO4
reactant | HCl | 4N, 5.5 mL | Cl | ClH
reactant | dioxane | 22 mmol, 20 equiv. | O1CCOCC1 | C4H8O2
product | 4-chlorobenzo[d][1,3]dioxol-5-amine | quantitative yield | ClC1=C(C=CC=2OCOC21)N | C7H6ClNO2
